US06028086
4-Methoxy-3-[6-(4-phenylbut-1-yloxy)hex-1-yloxy]benzaldehyde
To a stirred solution of 3-hydroxy-4-methoxybenzaldehyde (4.8 grams) in dimethylformamide (100 ml) at room temperature is added potassium carbonate (4.9 grams) and 1-bromo-6-(4-phenylbut-1-yloxy)hexane (10.0 grams). After stirring at 80° C. over 4 hours the reaction mixture is poured into water and extracted with ethyl acetate. The combined organics are washed with 1N sodium hydroxide and brine, dried over sodium sulfate, filtered and concentrated under reduced pressure. The resulting amber oil is filtered through a 5×10 cm pad of silica gel, eluting with a 1:3 mixture of ethyl acetate and hexane, to give 12.0 grams of a colorless oil. MS (m/z) 384.

reactant | 3-hydroxy-4-methoxybenzaldehyde | 4.8 grams | OC=1C=C(C=O)C=CC1OC | C8H8O3
reactant | potassium carbonate | 4.9 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-6-(4-phenylbut-1-yloxy)hexane | 10.0 grams | BrCCCCCCOCCCCC1=CC=CC=C1 | C16H25BrO
reactant | water | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4-Methoxy-3-[6-(4-phenylbut-1-yloxy)hex-1-yloxy]benzaldehyde | 12.0 grams | COC1=C(C=C(C=O)C=C1)OCCCCCCOCCCCC1=CC=CC=C1 | C24H32O4
